US07439257B2
8.2. 2-amino-2-oxoethyl 4-[(7-quinolinyl-oxy)methyl]-1-piperidinecarboxylate
0.26 g (1.03 mmol) of 1,1′-(azodicarbonyl)-dipiperidine (ADDP) is added to a solution of 0.16 g (0.69 mmol) of 2-(methyloxy)-2-oxoethyl 4-(hydroxymethyl)-1-piperidinecarboxylate, prepared in Step 8.1., 0.26 ml (1.03 mmol) of tri-n-butylphosphine and 0.13 g (0.90 mmol) of 7-hydroxyquinoline in 2.5 ml of benzene, which is cooled by means of an ice bath. The mixture is stirred at 0° C. for 15 minutes and then at ambient temperature for 16 hours. It is filtered over celite and rinsed with diethyl ether. The filtrates are evaporated to dryness and purified by chromatography on silica gel, eluting with a 70/30 mixture of ethyl acetate in n-hexane. The product obtained is dissolved in 3 ml (21 mmol) of a 7M solution of ammonia in methanol. The solution is stirred for 3 hours and then evaporated to dryness. The product is purified by chromatography on silica gel, eluting with a 90/10 mixture of ethyl acetate in ethanol, and recrystallized from ethyl acetate, to give 0.115 g of product in white solid form.

reactant | 1,1′-(azodicarbonyl)-dipiperidine | 1.03 mmol, 0.26 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 2-(methyloxy)-2-oxoethyl 4-(hydroxymethyl)-1-piperidinecarboxylate | 0.69 mmol, 0.16 g | OCC1CCN(CC1)C(=O)OCC(=O)OC | C10H17NO5
reactant | tri-n-butylphosphine | 1.03 mmol, 0.26 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 7-hydroxyquinoline | 0.90 mmol, 0.13 g | OC1=CC=C2C=CC=NC2=C1 | C9H7NO
solvent | benzene | 2.5 ml | C1=CC=CC=C1 | C6H6
solvent | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-amino-2-oxoethyl 4-[(7-quinolinyl-oxy)methyl]-1-piperidinecarboxylate | 0.115 g | N1=CC=CC2=CC=C(C=C12)OCC1CCN(CC1)C(=O)OCC(=O)N | C18H21N3O4
